US07618990B2
Step 3: 4-[5-chloro-2-(4,4-dimethyl-2-oxo-1,3-oxazolidin-3-yl)-1,3-thiazol-4-yl]benzonitrile
4-{5-Chloro-2-[(2-hydroxy-1,1-dimethylethyl)amino]-1,3-thiazol-4-yl}benzonitrile (0.93 g, 3.0 mmol), prepared in the previous step, was dissolved in methylene chloride (25 mL), triethylamine (4.15 mL, 30 mmol) was added and the mixture was cooled to 0° C. Triphosgene (1.79 g, 6.0 mmol) was added and the mixture was stirred for 2 h. The mixture was then diluted with methylene chloride, washed with 2N HCl, saturated NaHCO3, brine, dried over anhydrous MgSO4, filtered and concentrated. Flash chromatography (10% acetone/hexane) afforded the title compound (220 mg, 22%) as a pale yellow solid. HRMS: calcd for C15H12ClN3O2S+H+, 334.04115; found (ESI, [M+H]+), 334.04; HPLC purity 100% at 210-370 nm, 10.6 min; 100% at 244 nm, 10.6 min; the Xterra® RP18 column, 3.5μ, 150×4.6 mm column, 1.2 mL/min, 85/15-5/95 (Ammon. Form. Buff. pH=3.5/ACN+MeOH) for 10 min, hold 4 mm.

reactant | 4-{5-Chloro-2-[(2-hydroxy-1,1-dimethylethyl)amino]-1,3-thiazol-4-yl}benzonitrile | 3.0 mmol, 0.93 g | ClC1=C(N=C(S1)NC(CO)(C)C)C1=CC=C(C#N)C=C1 | C14H14ClN3OS
reactant | triethylamine | 30 mmol, 4.15 mL | C(C)N(CC)CC | C6H15N
reactant | Triphosgene | 6.0 mmol, 1.79 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
product | 4-[5-chloro-2-(4,4-dimethyl-2-oxo-1,3-oxazolidin-3-yl)-1,3-thiazol-4-yl]benzonitrile | 220 mg, 22% | ClC1=C(N=C(S1)N1C(OCC1(C)C)=O)C1=CC=C(C#N)C=C1 | C15H12ClN3O2S
